US09388195B2
A) Production of 6-bromo-2-cyclohexylthieno[3,2-d]pyrimidin-4 (3H)-one
To a mixed solution of 3-amino-5-bromothiophene-2-carboxamide (200 mg) produced in Example 1, step D, triethylamine (0.19 mL) and tetrahydrofuran (4.0 mL) was added cyclohexanecarbonyl chloride (0.18 mL) at 0° C., and the mixture was stirred at room temperature for 30 min. Water was poured into the reaction system, the mixture was extracted with ethyl acetate, and the extract was washed with brine, and dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give 5-bromo-3-[(cyclohexylcarbonyl)amino]thiophene-2-carboxamide. To 5-bromo-3-[(cyclohexylcarbonyl)amino]thiophene-2-carboxamide produced above were added 2M aqueous sodium hydroxide solution (0.90 mL) and ethanol (2.0 mL), and the mixture was stirred at 70° C. for 2 hr. The reaction system was neutralized with 1M hydrochloric acid at 0° C. Water (2 mL)) was added, and the precipitate was collected by filtration to give the title compound (252 mg) as a white solid.

reactant | 5-bromo-3-[(cyclohexylcarbonyl)amino]thiophene-2-carboxamide | BrC1=CC(=C(S1)C(=O)N)NC(=O)C1CCCCC1 | C12H15BrN2O2S
reactant | sodium hydroxide | 2M, 0.90 mL | [OH-].[Na+]
reactant | ethanol | 2.0 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | Water | 2 mL | O | H2O
product | 6-bromo-2-cyclohexylthieno[3,2-d]pyrimidin-4 (3H)-one | 252 mg | BrC1=CC=2N=C(NC(C2S1)=O)C1CCCCC1 | C12H13BrN2OS
